US04244966
A solution of 2,3-dihydro-3-oxo-1H-isoindole-1-acetic acid (described by F. M. Rowe et al., cited above, 2.0 g) in ethanol (40 ml) containing p-toluene-sulfonic acid (0.10 g) is refluxed with stirring for 4.0 hr. Most of the ethanol is evaporated and the residue is dissolved in chloroform. The solution is washed with water, dried and evaporated. The residue (2.2 g) is crystallized from benzenehexane to give ethyl 1,3-dihydro-3-oxo-2H-isoindole-1-acetate, mp 116°-118° C.

reactant | 2,3-dihydro-3-oxo-1H-isoindole-1-acetic acid | 2.0 g | O=C1NC(C2=CC=CC=C12)CC(=O)O | C10H9NO3
reactant | p-toluene-sulfonic acid | 0.10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 1,3-dihydro-3-oxo-2H-isoindole-1-acetate | O=C1NC(C2=CC=CC=C12)CC(=O)OCC | C12H13NO3
